US06211215B1
In substantially the same manner as in Reference Example 77, 4-chloromethyl-2-(2-thienyl)oxazole was allowed to react with sodium acetate, and then hydrolyzed to give 2-(2-thienyl)oxazolylmethanol. The yield was 80%. Recrystallization from ethyl acetate-hexane gave pale yellow prisms, mp 98-99° C.

reactant | 4-chloromethyl-2-(2-thienyl)oxazole | ClCC=1N=C(OC1)C=1SC=CC1 | C8H6ClNOS
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 2-(2-thienyl)oxazolylmethanol | yield was 80% | S1C(=CC=C1)C=1OC=C(N1)CO | C8H7NO2S
